### PR TITLE
[Merged by Bors] - feat: Pontryagin duality for finite abelian groups

### PR DESCRIPTION
**Pull request by YaelDillies**
Prove Pontryagin duality in case of finite abelian groups.

This states that any finite abelian group is canonically isomorphic to its double dual (the space of complex-valued characters of its space of complex-valued characters).

We first prove it for `ZMod n` and then extend to all finite abelian groups using the Structure Theorem.

From LeanAPAP

Co-authored-by Bhavik Mehta <bhavikmehta8@gmail.com>

---

- [x] depends on: #15441
- [x] depends on: #16447

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean [hunk 1]
```diff
@@ -17,9 +17,41 @@ These results are separate from `Analysis.SpecialFunctions.Complex.Circle` in or
...
 
-open Complex Function
+open AddChar Complex Function Real
 
-open scoped Real
+namespace Circle
+variable {r s : ℝ}
+
+/-- The standard character sending `r : ℝ` to $$e^{2πir}$$. -/
+noncomputable def e : AddChar ℝ Circle where
```
Comment (b-mehta) [inline Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean:26]: We should relate this def to the ones below, eg toCircle. I think that one is a composition of this and the (not really) canonical map from ZMod N to R given by x -> x/N

File: Mathlib/Analysis/SpecialFunctions/Complex/PontryaginDuality.lean [hunk 2]
```diff
@@ -0,0 +1,236 @@
...
+  replace hn : (n : ℝ) ≠ 0 := Nat.cast_ne_zero.2 hn
+  simp [zmodAux, ZMod.lift_injective, CharP.intCast_eq_zero_iff _ n, e_eq_one, div_eq_iff hn,
+    mul_comm _ (n : ℝ), -forall_exists_index]
+  norm_cast
+  exact fun _ ↦ id
+
+/-- Indexing of the complex characters of `ZMod n`. `AddChar.zmod n x` is the character sending `y`
+to `e ^ (2 * π * i * x * y / n)`. -/
+def zmod (n : ℕ) (x : ZMod n) : AddChar (ZMod n) Circle :=
+  (zmodAux n).compAddMonoidHom <| AddMonoidHom.mulLeft x
```
Comment (b-mehta) [inline Mathlib/Analysis/SpecialFunctions/Complex/PontryaginDuality.lean:64]: Is it any better to write this in terms of `toCircle`? It's a group hom in ZMod n composed with that; maybe this also saves some of the lemmas above

Comment (YaelDillies) [reply Mathlib/Analysis/SpecialFunctions/Complex/PontryaginDuality.lean]: It is better!

File: Mathlib/Analysis/Fourier/FiniteAbelian/Orthogonality.lean [hunk 3]
```diff
@@ -0,0 +1,91 @@
...
+section Semifield
+variable [Fintype G] [Semifield R] [IsDomain R] [CharZero R] {ψ : AddChar G R}
+
+lemma expect_eq_ite (ψ : AddChar G R) : 𝔼 a, ψ a = if ψ = 0 then 1 else 0 := by
+  split_ifs with h
+  · simp [h, card_univ]
+  obtain ⟨x, hx⟩ := ne_one_iff.1 h
+  refine eq_zero_of_mul_eq_self_left hx ?_
+  rw [Finset.mul_expect]
+  exact Fintype.expect_equiv (Equiv.addLeft x) _ _ fun y ↦ (map_add_eq_mul _ _ _).symm
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Fourier/FiniteAbelian/Orthogonality.lean:37]:
```suggestion
  simp only [Fintype.expect_eq_sum_div_card, AddChar.sum_eq_ite ψ, h, ↓reduceIte, zero_div]
```
There is already some API for `AddChar`s...

File: Mathlib/Analysis/Fourier/FiniteAbelian/Orthogonality.lean [hunk 4]
```diff
@@ -0,0 +1,91 @@
...
+
+lemma wInner_cWeight_eq_one_iff_eq [Fintype G] : ⟪(ψ₁ : G → R), ψ₂⟫ₙ_[R] = 1 ↔ ψ₁ = ψ₂ := by
+  rw [wInner_cWeight_eq_boole, one_ne_zero.ite_eq_left_iff]
+
+variable (G R)
+
+protected lemma linearIndependent [Finite G] : LinearIndependent R ((⇑) : AddChar G R → G → R) := by
+  cases nonempty_fintype G
+  exact linearIndependent_of_ne_zero_of_wInner_cWeight_eq_zero AddChar.coe_ne_zero fun ψ₁ ψ₂ ↦
+    wInner_cWeight_eq_zero_iff_ne.2
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Fourier/FiniteAbelian/Orthogonality.lean:80]:
```suggestion
  exact linearIndependent_of_ne_zero_of_wInner_cWeight_eq_zero AddChar.coe_ne_zero
    fun ψ₁ ψ₂ ↦ wInner_cWeight_eq_zero_iff_ne.2
```

File: Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean [hunk 5]
```diff
@@ -0,0 +1,201 @@
...
+  DFunLike.ext _ _ <| by simp [ZMod.intCast_surjective.forall, zmod]
+
+variable {n}
+
+@[simp] lemma zmod_add : ∀ x y : ZMod n, zmod n (x + y) = zmod n x * zmod n y := by
+  simp [DFunLike.ext_iff, ← Int.cast_add, zmod, add_mul, add_div, map_add_eq_mul]
+
+lemma zmod_injective : Injective (zmod n) := by
+  simp_rw [Injective, ZMod.intCast_surjective.forall]
+  rintro x y h
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean:54]:
```suggestion
  intro x y h
```

File: Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean [hunk 6]
```diff
@@ -0,0 +1,201 @@
...
+  replace hn : (n : ℝ) ≠ 0 := by have := NeZero.ne n; positivity
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean:55]:
```suggestion
  have hn : (n : ℝ) ≠ 0 := mod_cast NeZero.ne n
```
`replace` does not make sense here; there is no previous `hn` in context.

File: Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean [hunk 7]
```diff
@@ -0,0 +1,201 @@
...
+
+@[simp] lemma card_eq [Fintype α] : card (AddChar α ℂ) = card α := by
+  obtain ⟨ι, _, n, hn, ⟨e⟩⟩ := AddCommGroup.equiv_directSum_zmod_of_finite' α
+  classical
+  have hn' i : NeZero (n i) := by have := hn i; exact ⟨by positivity⟩
+  let f : α → AddChar α ℂ := fun a ↦ coeHom.compAddChar ((mkZModAux n <| e a).compAddMonoidHom e)
+  have hf : Injective f := circleEquivComplex.injective.comp
+    ((compAddMonoidHom_injective_left _ e.surjective).comp <| mkZModAux_injective.comp <|
+      DFunLike.coe_injective.comp <| e.injective.comp Additive.ofMul.injective)
+  exact (card_addChar_le _ _).antisymm (Fintype.card_le_of_injective _ hf)
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean:97]: With the additional imports
```
import Mathlib.GroupTheory.FiniteAbelian.Duality
import Mathlib.RingTheory.RootsOfUnity.AlgebraicallyClosed
import Mathlib.Analysis.Complex.Polynomial.Basic
```
one can use the results on homomorphisms from finite abelian multiplicative groups into monoids with enough roots of unity, as follows.
```
variable (α) in
/-- The additive isomorphism from `AddChar α M` to homomorphisms from `Multiplicative α` to `M`. -/
def mulEquivMultiplicativeMonoidHom (M) [CommMonoid M] :
    Multiplicative (AddChar α M) ≃* (Multiplicative α →* M) :=
  let e : Multiplicative (AddChar α M) ≃* AddChar α M :=
    MulEquiv.mk' Additive.ofMul fun _ _ ↦ rfl
  e.trans <| AddChar.toMonoidHomMulEquiv

variable (α) in
/-- The group of complex-valued additive characters on a finite abelian group is
(noncanonically) isomorphic to itself. -/
lemma addEquiv_self [Finite α] : Nonempty (AddChar α ℂ ≃+ α) :=
  let e := (CommGroup.mulEquiv_monoidHom_of_hasEnoughRootsOfUnity (Multiplicative α) ℂ).some
  let e₀ : (Multiplicative α →* ℂ) ≃* (Multiplicative α →* ℂˣ) := {
    toFun := MonoidHom.toHomUnits
    invFun := fun φ ↦ (Units.coeHom _).comp φ
    left_inv := fun φ ↦ by ext; simp
    right_inv := fun φ ↦ by ext; simp
    map_mul' := fun φ ψ ↦ by ext; simp
  }
  let e' := (mulEquivMultiplicativeMonoidHom α ℂ).trans <| e₀.trans e.symm
  ⟨AddEquiv.toMultiplicative.symm e'⟩

@[simp] lemma card_eq [Fintype α] : card (AddChar α ℂ) = card α :=
  Fintype.card_congr (addEquiv_self α).some.toEquiv
```

File: Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean [hunk 8]
```diff
@@ -0,0 +1,201 @@
...
+
+/-- `ZMod n` is (noncanonically) isomorphic to its group of characters. -/
+def zmodAddEquiv : ZMod n ≃+ AddChar (ZMod n) ℂ := by
+  refine AddEquiv.ofBijective
+    (circleEquivComplex.toAddMonoidHom.comp <| AddChar.toAddMonoidHom zmodHom) ?_
+  rw [Fintype.bijective_iff_injective_and_card, card_eq]
+  exact ⟨circleEquivComplex.injective.comp zmod_injective, rfl⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean:104]: One could then golf this to
```lean
def zmodAddEquiv : ZMod n ≃+ AddChar (ZMod n) ℂ :=
  addEquiv_self (ZMod n) |>.some.symm
```
but I assume you what the specific isomorphism here.

File: Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean [hunk 9]
```diff
@@ -0,0 +1,201 @@
...
+@[simp, norm_cast]
+lemma coe_complexBasis : ⇑(complexBasis α) = ((⇑) : AddChar α ℂ → α → ℂ) := by
+  rw [complexBasis, coe_basisOfLinearIndependentOfCardEqFinrank]
+
+variable {α}
+
+@[simp]
+lemma complexBasis_apply (ψ : AddChar α ℂ) : complexBasis α ψ = ψ := by rw [coe_complexBasis]
+
+lemma exists_apply_ne_zero : (∃ ψ : AddChar α ℂ, ψ a ≠ 1) ↔ a ≠ 0 := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean:126]: It should be possible to reduce this to `CommGroup.exists_apply_ne_one_of_hasEnoughRootsOfUnity (Multiplicative α) ℂ`, but it looks like this requires building some API for `mulEquivMultiplicativeMonoidHom ` from above (and possibly variants).

So, on further thought, I think it is not worth the trouble, and it is OK to leave the code basically as is.

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM, modulo one golf and a couple minor style issues.

**Comment by MichaelStollBayreuth** [comment]
maintainer delegate

File: Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean (hunk 8 above)
Comment (b-mehta) [reply Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean:104]: Yes, the actual isomorphism here was definitely used in the original application of this code about a year and a half ago; I'm pretty sure it's useful in the application in LeanAPAP too.

File: Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean (hunk 7 above)
Comment (b-mehta) [reply Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean:97]: Do you think there should be a TODO in this file so it doesn't get forgotten? Or do you think the linkage here isn't worth it in general

File: Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean:54]: I don't really see the point of learning when to use `intro` when it is strictly weaker than `rintro`. If you ask me, I would be very happy for mathlib to make `intro` notation for `rintro`

File: Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean:104]: I actually don't think we ever use the specific isomorphism, no

File: Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean:102]: Left a TODO

File: Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean (hunk 5 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Fourier/FiniteAbelian/PontryaginDuality.lean:59]: OK; I don't insist...

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
